US03978121
D. 5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene
5-(3-Phthalimidopropyl)-5H-dibenzo[a,d]cycloheptene, 2.15 g. (0.0054 mole), is dissolved in 50 ml. of hot 95% ethanol. Hydrazine hydrate, 0.6 ml., is added and the solution heated to refluxing for 2 hours. The solution then is cooled, acidified, and the precipitate of phthalhydrazide removed by filtration. Ethanol is distilled from the filtrate under reduced pressure and the residue dissolved in 40 ml. of water. The filtered solution is evaporated by heating under reduced pressure to a volume of approximately 20 ml. Upon cooling, the hydrochloride salt of 5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene is precipitated in a yield of 1.35 g. (87.5%). After recrystallization from a mixture of ethanol and ether and from isopropyl alcohol, an analytical sample melted at 263°-265°C., dec.

reactant | 5-(3-Phthalimidopropyl)-5H-dibenzo[a,d]cycloheptene | C1(C=2C(C(N1CCCC1C3=C(C=CC4=C1C=CC=C4)C=CC=C3)=O)=CC=CC2)=O | C26H21NO2
reactant | Hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene | NCCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C18H19N
